US06777440B2
Compound 22-A: [[2-(2,2-Dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-acetyl]-(4-fluorobenzyl)-aminooxy]-acetic acid.
A solution [[2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-acetyl]-(4-fluorobenzyl)-aminooxy]-acetic acid tert-butyl ester (0.60 g, 1.46 mmol) in dichloromethane (15 ml) was treated at 22° C. with trifluoroacetic acid (4 ml) and the resulting mixture was stirred for 2h. Evaporation of the solvent in vacuo gave 0.517 g (100% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ (ppm): 1.79 (6H, s, CH3), 4.41 (2H, s, CH2), 4.88 (2H, s, CH2), 6.4 (1H, broad, CH), 7.09 (2H, m, aromatics), 7.35 (2H, m, aromatics). HRMS (ES+) calculated for C16H17FNO7[M+H]+: 354.098905. Found: 354.098878.

reactant | [[2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-acetyl]-(4-fluorobenzyl)-aminooxy]-acetic acid tert-butyl ester | 1.46 mmol, 0.60 g | C(C)(C)(C)OC(CON(CC1=CC=C(C=C1)F)C(C=C1OC(OC1=O)(C)C)=O)=O | C20H24FNO7
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | [[2-(2,2-Dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-acetyl]-(4-fluorobenzyl)-aminooxy]-acetic acid | 0.517 g, 100% yield | CC1(OC(C(O1)=CC(=O)N(OCC(=O)O)CC1=CC=C(C=C1)F)=O)C | C16H16FNO7
